US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (205 mg, 1.0 mmol) was added to N-(5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide (90 mg, 0.34 mmol) in n-butanol (2 mL). The reaction was stirred at 160° C. for 24 hours in a sealed tube. After cooling down and concentration, the residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, water/ACN 90/10→10/90, 30CV) to yield (R)-tert-butyl 1-(3-(cyclopropanecarboxamido)-5-ethoxy-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (39 mg) as a solid.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 1.0 mmol, 205 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-(5-ethoxy-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopropanecarboxamide | 0.34 mmol, 90 mg | C(C)OC=1C(=C2C(=NC1)NC=C2NC(=O)C2CC2)F | C13H14FN3O2
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | (R)-tert-butyl 1-(3-(cyclopropanecarboxamido)-5-ethoxy-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 39 mg | C1(CC1)C(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)OCC | C23H33N5O4
